US04360688
Preparation of Methyl 7-(4-hydroxycyclopent- 2-en-1-on-2-yl)-2phenylthioheptanoate
A stirred mixture of 4.38 g. of 7-(4-hydroxycyclopent-2-en-1-on-2-yl)-2-phenylthioheptanoic acid, 1.99 g. of potassium carbonate, 1.63 ml. of iodomethane and 26 ml. of acetone is refluxed for 3.5 hours. The acetone is evaporated and the residue is partitioned between water and ether. The ether layer is washed with brine, dried and concentrated, giving the product as an oily liquid, identified by PMRδ 3.67 (3, s).

reactant | 7-(4-hydroxycyclopent-2-en-1-on-2-yl)-2-phenylthioheptanoic acid | OC1C=C(C(C1)=O)CCCCCC(C(=S)O)C1=CC=CC=C1 | C18H22O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | IC | CH3I
solvent | acetone | CC(=O)C | C3H6O
product | Methyl 7-(4-hydroxycyclopent- 2-en-1-on-2-yl)-2phenylthioheptanoate | OC1C=C(C(C1)=O)CCCCCC(C(=S)OC)C1=CC=CC=C1 | C19H24O3S
